US08809552B2
a) 6-(2,4-Dichloro-benzylcarbamoyl)-2,6-diaza-spiro[3.3]heptane-2-carboxylic acid tert-butyl ester
To a stirred solution of 6-(tert-butoxycarbonyl)-2,6-diaza-spiro[3.3]heptane oxalate (200 mg, 1.01 mmol) in dichloromethane (10 mL) was added triethylamine (141 μl, 1.01 mmol) followed by 2,4-dichloro-1-(isocyanatomethyl)benzene (204 mg, 1.01 mmol). The reaction mixture was stirred at ambient temperature for 1 h. The crude reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography (SiO2; methanol:dichloromethane 0:1 to 1:9) to give the title compound (344 mg, 85%) as a white solid. MS (EI) m/e: 400.0 (M+H)+.

reactant | 6-(tert-butoxycarbonyl)-2,6-diaza-spiro[3.3]heptane oxalate | 1.01 mmol, 200 mg | C(C(=O)O)(=O)O.C(C)(C)(C)OC(=O)N1CC2(CNC2)C1
reactant | triethylamine | 1.01 mmol, 141 μl | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-1-(isocyanatomethyl)benzene | 1.01 mmol, 204 mg | ClC1=C(C=CC(=C1)Cl)CN=C=O | C8H5Cl2NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-(2,4-Dichloro-benzylcarbamoyl)-2,6-diaza-spiro[3.3]heptane-2-carboxylic acid tert-butyl ester | 344 mg, 85% | C(C)(C)(C)OC(=O)N1CC2(C1)CN(C2)C(NCC2=C(C=C(C=C2)Cl)Cl)=O | C18H23Cl2N3O3
